US04236004
5-amino-7,8-dihydro-8-(2-methoxyethyl)-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester
To 9.3 g. (0.037 mole) of 5-cyano-4-(2-methoxyethylamino)-2-phenyl pyrimidine in 350 ml. of diethyl ether was added 2.8 g. (0.019 mole) of ethyl malonyl chloride and this mixture was stirred at room temperature for 4.5 hours. Then the solid material was filtered off and the filtrate evaporated to dryness. Ethanol was added until a solution was obtained and this solution was added to 0.85 g. (0.057 mole) of Na in ethanol and stirred 20 minutes. A little water was added and the solution was acidified with acetic acid. The solid product was collected on a suction filter and recrystallized from ethanol to give 2.0 g. of product--m.p. 245°-247° C.

reactant | 5-cyano-4-(2-methoxyethylamino)-2-phenyl pyrimidine | 0.037 mole | C(#N)C=1C(=NC(=NC1)C1=CC=CC=C1)NCCOC | C14H14N4O
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | ethyl malonyl chloride | 0.019 mole | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | water | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-amino-7,8-dihydro-8-(2-methoxyethyl)-7-oxo-2-phenylpyrido[2,3-d]pyrimidine-6-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(N=C(N=C2)C2=CC=CC=C2)N(C1=O)CCOC)N | C19H20N4O4
